US06403601B1
(e) Methyl 3-cyano-5,6,7,8-tetrahydro-1-naphthalenecarboxylate
A solution of methyl 3-trifluoromethylsulfonyloxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylate (2.08 g, 6.15 mmol), zinc cyanide (0.81 g, 6.89 mmol) and tetrakistriphenylphosphine palladium (0.56 g, 0.48 mmol) in DMF (8 mL) was stirred at 120° C. for 1 h. The mixture was diluted with saturated NaHCO3, extracted with EtOAc, dried (MgSO4), filtered, and concentrated. Following column chromatography methyl-3-cyano-5,6,7,8-tetrahydro-1-naphthalenecarboxylate was obtained as a white solid (960 mg, 73%). 1H NMR (CDCl3) δ 7.94 (s, 1H), 7.49 (s, 1H), 3.90 (s, 3H), 3.11 (s, 2H), 2.84 (s, 2H), 1.81 (m, 4H); MS m/z 216.1 (M+H), 214.1 (M−H).

reactant | methyl 3-trifluoromethylsulfonyloxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 6.15 mmol, 2.08 g | FC(S(=O)(=O)OC=1C=C(C=2CCCCC2C1)C(=O)OC)(F)F | C13H13F3O5S
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | zinc cyanide | 6.89 mmol, 0.81 g | [C-]#N.[Zn+2].[C-]#N
product | Methyl 3-cyano-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 960 mg, 73% | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)OC | C13H13NO2
